US05324726
Sodium hydride (26.4 mg of a 50% dispersion in mineral oil; 0.55 mmol) was stirred under nitrogen in dry DMF (5 ml) in an ice bath. (RS)-1,3-Dihydro-3-(benzyloxycarbonyl)amino-5-phenyl-2H-1,4-benzodiazepin-2-one (0.21 g, 0.54 mmol) in DMF (4 ml) was added, and the mixture stirred 1 hr in the cold. (2-Chloroethyl)-dimethylamine (59.2 mg, 0.55 mmol), prepared by distillation of a mixture of the hydrochloride and powdered sodium hydroxide in vacuo, was added and the mixture stirred 1 hr in the cold, and overnight at ambient temperature. The DMF was removed in vacuo and the residue was treated with water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over sodium sulfate, filtered, and evaporated to dryness in vacuo. The residue was chromatographed on silica gel eluted with 90:10:1:1 of CH2Cl2 :MeOH:H2O:HOAc and the product fractons were evaporated to dryness in vacuo to provide (RS)-1-(2-chloroethyl)-1,3-dihydro-3-(benzyloxycarbonyl) amino-5-phenyl-2H-1,4-benzodiazepin-2-one. This compound (120 mg, 0.268 mmol) was added to a suspension of 10% palladium/Carbon (70 mg) in 4.5% methanolic formic acid (5 ml) stirred at ambient temperature under nitrogen. After 25 min, the mixture was filtered and the filtrate evaporated to dryness in vacuo. The residue was treated with saturated sodium carbonate solution and extracted with ethyl acetate. The combine ethyl acetate layers were washed with water, dried over sodium sulfate, filtered, and evaporated to dryness in vacuo. The residue was dissolved in THF, cooled in an ice bath, and treated with 3-methoxyphenylisocyanate (35.1 μl). The mixture was stirred in the cold for 30 min. warmed to ambient temperature, and filtered. The filtrate was evaporated to dryness in vacuo, and the residue was treated with ether (30 ml) and re-evaporated three times. The residue was triturated with ether and filtered, and the resulting solid dried at 65° C. overnight to provide the title compound: (mp 213°-215° C.). TLC: Silica gel (80:10:1 of CH2Cl2 :CH3OH:NH3) Rf =0.41

reactant | Sodium hydride | [H-].[Na+]
reactant | (RS)-1,3-Dihydro-3-(benzyloxycarbonyl)amino-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.54 mmol, 0.21 g | C(C1=CC=CC=C1)OC(=O)NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C23H19N3O3
reactant | (2-Chloroethyl)-dimethylamine | 0.55 mmol, 59.2 mg | ClCCN(C)C | C4H10ClN
reactant | hydrochloride | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | (RS)-1-(2-chloroethyl)-1,3-dihydro-3-(benzyloxycarbonyl) amino-5-phenyl-2H-1,4-benzodiazepin-2-one | ClCCN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)OCC2=CC=CC=C2)=O | C25H22ClN3O3
